US05521167
A solution of 7.2 g of 3β-(2,2-diethoxyethoxy)-17-ethylenedioxy-androstane, in 250 ml of dioxane and 250 ml of a saturated solution of tartaric acid was heated at 70° C. for 2 hrs in a nitrogen atmosphere, 100 ml of water were then added and the residue was extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using as eluant n-hexane/ethyl acetate 70/30 to give 4.5 g of 3β-formylmethoxy-androstan-17-one as a white solid.

reactant | 3β-(2,2-diethoxyethoxy)-17-ethylenedioxy-androstane | 7.2 g | C(C)OC(CO[C@@H]1CC2CC[C@H]3[C@@H]4CC5C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCCO5)OCC | C27H46O5
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | water | 100 ml | O | H2O
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 3β-formylmethoxy-androstan-17-one | 4.5 g | C(=O)CO[C@@H]1CC2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H32O3
